US07615642B2
Step B. ethyl (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)piperidine-3-carboxylate
2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (1.2 g, 2.9 mmol) was slowly added to a solution of ethyl (3S)-piperidine-3-carboxylate (0.7 g, 4.4 mmol) and DIPLA (2.6 mL, 14 mmol) in DCL (50 mL) at 80° C. The reaction mixture was stirred for 1 h and the solvent was concentrated. The product was purified by MPLC on silica gel using 60-90% EtOAc/Heptane to provide the title compound as white solid. Yield: 1.5 g (96%); MS (ESI) (M+H)+=526.0.

reactant | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 2.9 mmol, 1.2 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | ethyl (3S)-piperidine-3-carboxylate | 4.4 mmol, 0.7 g | N1C[C@H](CCC1)C(=O)OCC | C8H15NO2
product | ethyl (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)piperidine-3-carboxylate | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@H](CCC2)C(=O)OCC | C26H37F2N3O4S
